US09353107B2
Step-iv: tert-butyl 4-(2-fluoro-4-(3-iodo-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate
Using similar reaction conditions as described in step i of intermediate 1, tert-butyl 4-(2-fluoro-4-(1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate (320 mg, 0.810 mmol) was iodinated with N-iodosuccinimide (219 mg, 0.972 mmol) in DCM (20 ml) to afford 400 mg (94.7% yield) of the pure product. MS: m/z=522.1 (M+1).

reactant | tert-butyl 4-(2-fluoro-4-(1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate | 0.810 mmol, 320 mg | FC1=C(C=CC(=C1)C=1C=C2C(=NC1)NC=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C23H26FN3O2
reactant | N-iodosuccinimide | 0.972 mmol, 219 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(2-fluoro-4-(3-iodo-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate | 400 mg, 94.7% yield | FC1=C(C=CC(=C1)C=1C=C2C(=NC1)NC=C2I)C2CCN(CC2)C(=O)OC(C)(C)C | C23H25FIN3O2
